US04761420
4-(8-tetrahydropyran-2-yloxyoctyl)phenol.
Similarly, proceding as in part (C) above but substituting 4-(3-hydroxypropyl)phenol, 4-(4-hydroxybutyl)phenol, 4-(hydroxymethyl)phenol, 3-(2-hydroxyethyl)phenol, and 2-(2-hydroxyethyl)phenol for 4-(2-hydroxyethyl)phenol, the following compounds are prepared:

reactant | 4-(4-hydroxybutyl)phenol | OCCCCC1=CC=C(C=C1)O | C10H14O2
reactant | 4-(hydroxymethyl)phenol | OCC1=CC=C(C=C1)O | C7H8O2
reactant | 3-(2-hydroxyethyl)phenol | OCCC=1C=C(C=CC1)O | C8H10O2
reactant | 2-(2-hydroxyethyl)phenol | OCCC1=C(C=CC=C1)O | C8H10O2
reactant | 4-(2-hydroxyethyl)phenol | OCCC1=CC=C(C=C1)O | C8H10O2
product | 4-(8-tetrahydropyran-2-yloxyoctyl)phenol | O1C(CCCC1)OCCCCCCCCC1=CC=C(C=C1)O | C19H30O3
